US06313312B1
N-(3-{6-Methyl-3-[2-(1-methyl-1H-indol-3-yl)ethyl]-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methane sulphonamide
To a solution of N-(3-{6-methyl-3-[2-(1-methyl-1H-indol-3-yl)acetyl]-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide (Preparation 117, 55 mg, 0.126 mmol) in anhydrous tetrahydrofuran (1 ml) under a nitrogen atmosphere at 0° C. was added dropwise lithium aluminium hydride (1.0M solution in tetrahydrofiran, 0.26 ml, 0.26 mmol) and the reaction mixture was stirred at room temperature for 3 h. The rapidly stirred reaction mixture was treated sequentially with water (0.26 ml), sodium hydrogen carbonate (250 mg) and ethyl acetate (10 ml). After 30 min, the reaction mixture was filtered and concentrated in vacuo to afford a colourless oil. This was purified by preparative HPLC (condition 8) to give a pale yellow oil which was partitioned between dichioromethane (10 ml) and aqueous potassium carbonate solution (4% w:v, 5 ml). The layers were separated and the organic layer was washed with water (3 ml), dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound as a colourless oil (28 mg, 52%).

reactant | N-(3-{6-methyl-3-[2-(1-methyl-1H-indol-3-yl)acetyl]-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 0.126 mmol, 55 mg | CC1(C2CN(CC12)C(CC1=CN(C2=CC=CC=C12)C)=O)C=1C=C(C=CC1)NS(=O)(=O)C | C24H27N3O3S
reactant | lithium aluminium hydride | 0.26 mmol, 1.0M, 0.26 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.26 ml | O | H2O
reactant | sodium hydrogen carbonate | 250 mg | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-{6-Methyl-3-[2-(1-methyl-1H-indol-3-yl)ethyl]-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methane sulphonamide | 28 mg, 52% | CC1(C2CN(CC12)CCC1=CN(C2=CC=CC=C12)C)C=1C=C(C=CC1)NS(=O)(=O)C | C24H29N3O2S
